US05395947
A solution of (4R,5R)-4,5-bis(azidomethyl)-1,3-dioxolane (1.93 g, 10.5 mmol) in ethanol (20 ml) was hydrogenated in the presence of 10% palladium on activated carbon (0.2 g) at 50 psi at 40° C. for 2 hours. The reaction mixture was filtered through a pad of celite and evaporated to dryness under a reduced pressure to give 1.35 g of (4R,5R)-4,5-bis(aminomethyl)-1,3-dioxolane as a colorless oil.

reactant | (4R,5R)-4,5-bis(azidomethyl)-1,3-dioxolane | 10.5 mmol, 1.93 g | N(=[N+]=[N-])C[C@H]1OCO[C@@H]1CN=[N+]=[N-] | C5H8N6O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.2 g | [Pd] | Pd
product | (4R,5R)-4,5-bis(aminomethyl)-1,3-dioxolane | 1.35 g, Yield: 97% | NC[C@H]1OCO[C@@H]1CN | C5H12N2O2
